* source MULTIVIBRATOR
R_R1         VOUT1 D1R  5k TC=0,0 
R_R2         Q2G VDD  470k TC=0,0 
R_R3         Q1G VDD  470k TC=0,0 
R_R4         VOUT2 D2R  5k TC=0,0 
C_C1         VOUT1 Q2G  0.47uF  TC=0,0 
C_C2         Q1G VOUT2  0.47uF  TC=0,0 
D_D1         VDD D1R LA_541B-TYP 
D_D2         VDD D2R LA_541B-TYP 
V_V1         VDD 0 9Vdc
X_Q1         VOUT2 Q2G 0 awbmmbt3904 PARAMS:                                   
+          
X_Q2         VOUT1 Q1G 0 awbmmbt3904 PARAMS:                                   
+          
